US09447091B2
a) 1-Bromo-3,5-dinitrobenzene
To a solution of 1,3-dinitrobenzene (25 g, 0.149 mol) in concentrated sulfuric acid (100 ml) at 0° C. was added 1,3-dibromo-5,5-dimethylhydantoin (31.75 g, 0.111 mol, 0.75 eq) portionwise over a period of 30 min. The mixture was stirred for 12 at RT and quenched by the addition of crushed ice. The precipitate formed was filtered and was washed repeatedly with water to obtain white solid. The solid was dried under vacuum to give the product in 87% yield (32 g).

reactant | 1,3-dinitrobenzene | 0.149 mol, 25 g | [N+](=O)([O-])C1=CC(=CC=C1)[N+](=O)[O-] | C6H4N2O4
reactant | 1,3-dibromo-5,5-dimethylhydantoin | 0.111 mol, 31.75 g, 0.75 eq | BrN1C(=O)N(C(=O)C1(C)C)Br | C5H6Br2N2O2
solvent | sulfuric acid | 100 ml | S(O)(O)(=O)=O | H2O4S
product | 1-Bromo-3,5-dinitrobenzene | 87% yield | BrC1=CC(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3BrN2O4
